US08580798B2
4-{4-[3-(6-trifluoromethylpyrimidin-4-yl)ureido]phenoxy}-2-methylpyridine
The title compound was prepared in the same manner as 4-{3-fluoro-4-[3-(6-trifluoromethyl-pyrimidin-4-yl)-ureido]-phenoxy}-pyridine-2-carboxylic-acid methyl-amide, replacing 4-(4-amino-3-fluorophenoxypyridine-2-carboxylic acid methylamide for 4-(2-methylpyridin-4-yloxy)phenylamine. LC-MS m/z 389.9 [M+H]+; TLC Rf=0.45 (EtOAc).

reactant | 4-{3-fluoro-4-[3-(6-trifluoromethyl-pyrimidin-4-yl)-ureido]-phenoxy}-pyridine-2-carboxylic-acid methyl-amide | CNC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)NC1=NC=NC(=C1)C(F)(F)F)F | C19H14F4N6O3
reactant | 4-amino-3-fluorophenoxypyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC=C1OC1=CC(=C(C=C1)N)F | C13H12FN3O2
reactant | 4-(2-methylpyridin-4-yloxy)phenylamine | CC1=NC=CC(=C1)OC1=CC=C(C=C1)N | C12H12N2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-{4-[3-(6-trifluoromethylpyrimidin-4-yl)ureido]phenoxy}-2-methylpyridine | FC(C1=CC(=NC=N1)NC(NC1=CC=C(OC2=CC(=NC=C2)C)C=C1)=O)(F)F | C18H14F3N5O2
